US06004478
Preparation of 4'-(trans-4-(5-methoxy-n-pentyl)-4-silacyclohexyl)-2', 6'-difluoro-3-fluoro-4-(2 ,2-difluoroethoxy)biphenyl
The general procedure of Example 17 was repeated using 4'-bromo-2', 6'-difluoro-3-fluoro-4-(t-butyldimethylsiloxy)biphenyl, 4-(5-methoxy-n-pentyl)-4-phenyl-4-silacyclohexanone, and 1-bromo-2 ,2-difluoroethane, thereby obtaining the intended compound.

reactant | 4'-bromo-2', 6'-difluoro-3-fluoro-4-(t-butyldimethylsiloxy)biphenyl | BrC1=CC(=C(C(=C1)F)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)F)F | C18H20BrF3OSi
reactant | 4-(5-methoxy-n-pentyl)-4-phenyl-4-silacyclohexanone | COCCCCC[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C17H26O2Si
reactant | 1-bromo-2 ,2-difluoroethane | BrCC(F)F | C2H3BrF2
product | 4'-(trans-4-(5-methoxy-n-pentyl)-4-silacyclohexyl)-2', 6'-difluoro-3-fluoro-4-(2 ,2-difluoroethoxy)biphenyl | COCCCCC[Si@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)C1=CC(=C(C=C1)OCC(F)F)F)F | C25H31F5O2Si
